US04259489
2,3-Dicyano-5,6-dichloropyrazine (1.00 g; 0.005 mole) was dissolved in 50 ml of tetrahydrofuran, and the solution was cooled to -15° to -10° C. A solution of 0.47 g (0.005 mole) of phenol and 0.21 g (0.005 mole) of sodium hydroxide in 25 ml of water was added dropwise over the period of 30 minutes. The mixture was stirred at -15° to -10° C. for 1 hour. The reaction mixture was poured into 100 ml of ice water, and the precipitate was collected by filtration. The precipitate was dissolved in 50 ml of chloroform, washed with 20 ml of a dilute aqueous solution of sodium hydroxide and 30 ml of water, dried over anhydrous calcium chloride, and concentrated under reduced pressure. The crude product was chromatographed on a column containing 60 g of silica gel using benzene as an eluent to afford 0.65 g (yield 50%) of 2,3-dicyano-5-chloro-6-phenoxypyrazine.

reactant | 2,3-Dicyano-5,6-dichloropyrazine | 0.005 mole, 1.00 g | C(#N)C1=NC(=C(N=C1C#N)Cl)Cl | C6Cl2N4
reactant | phenol | 0.005 mole, 0.47 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydroxide | 0.005 mole, 0.21 g | [OH-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 25 ml | O | H2O
product | 2,3-dicyano-5-chloro-6-phenoxypyrazine | 0.65 g, yield 50% | C(#N)C1=NC(=C(N=C1C#N)Cl)OC1=CC=CC=C1 | C12H5ClN4O
